US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.3 g.), conc. hydrochloric acid (1.6 g.), tetrahydrofuran (17.0 ml.) and methanol (17.0 ml.) was stirred at room temperature for 7.6 hours. After concentrating the resultant solution in vacuo, the residue was pulverized with a mixture of methanol and diisopropyl ether. The precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 2.3 g.). Water (40 ml.) was added to the product and adjusted to pH 7.0 with sodium bicarbonate. After adjusting the solution to pH 4.0 with 1N hydrochloric acid, the solution was subjected to column chromatography on nonionic adsorption resin "Diaion HP-20" (Trademark, manufactured by Mitsubishi Chemical Industries Ltd.). The column was washed with water and eluted with 20% isopropyl alcohol. The eluate was concentrafted in vacuo and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.50 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.3 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCOC=O | C19H19N9O8S3
reactant | hydrochloric acid | 1.6 g | Cl | ClH
reactant | tetrahydrofuran | 17.0 ml | O1CCCC1 | C4H8O
solvent | methanol | 17.0 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 2.3 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCO | InChI=1S/C17H19N9O6S3.ClH/c1-25-17(21-23-24-25)35-5-7-4-33-14-10(13(29)26(14)11(7)15(30)31)20-12(28)9(22-32-3-2-27)8-6-34-16(18)19-8;/h6,10,14,27H,2-5H2,1H3,(H2,18,19)(H,20,28)(H,30,31);1H/t10?,14-;/m1./s1
